US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-8-yl)-4-acetylamino-5-chloro-2-methoxybenzamide
To a cooled solution of 4-acetylamino-5-chloro-2-methoxybenzoyl chloride, (prepared from 4-acetylamino-5-chloro-2-methoxybenzoic acid, 3.19 g) in dichloromethane was added 8-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline (2.1 g) and triethylamine (4 ml). After stirring at room temperature for 2.5h, the mixture was basified with 10% sodium hydroxide. The organic layer was separated, dried and concentrated in vacuo. The residue was purified by chromatography on alumina eluting with chloroform, and then crystallised from ethyl acethate to give the title compound.

reactant | 4-acetylamino-5-chloro-2-methoxybenzoyl chloride | C(C)(=O)NC1=CC(=C(C(=O)Cl)C=C1Cl)OC | C10H9Cl2NO3
reactant | 4-acetylamino-5-chloro-2-methoxybenzoic acid | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1Cl)OC | C10H10ClNO4
reactant | 8-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | 2.1 g | NC=1C=CC=C2CCN(CC12)C | C10H14N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-8-yl)-4-acetylamino-5-chloro-2-methoxybenzamide | CN1CC2=C(C=CC=C2CC1)NC(C1=C(C=C(C(=C1)Cl)NC(C)=O)OC)=O | C20H22ClN3O3
